US06451740B2
Into a mixture of methyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate [Intermediate compound A3-22], methyl chloroformate and tetrahydrofuran is added dropwise pyridine, and the mixture is stirred at room temperature. Dilute hydrochloric acid is added to the reaction solution, and this is extracted with ethyl acetate. The organic layer is washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated to obtain methyl [2-(2-chloro-4-fluoro-5-methoxycarbonylaminophenoxy)phenoxy]acetate [Intermediate compound A9-22].

reactant | methyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate | NC=1C(=CC(=C(OC2=C(OCC(=O)OC)C=CC=C2)C1)Cl)F | C15H13ClFNO4
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | methyl [2-(2-chloro-4-fluoro-5-methoxycarbonylaminophenoxy)phenoxy]acetate | ClC1=C(OC2=C(OCC(=O)OC)C=CC=C2)C=C(C(=C1)F)NC(=O)OC | C17H15ClFNO6
